US20010009921A1
(S)-1-Benzyl-3-fluoropyrrolidine
To a solution of (R)-1-benzyl-3-pyrrolidinol-tosylate (3 06 g 9 24 mmol) THF (30 ml) was added 10M solution oftetrabutylammonium fluoride in THF (370 ml 370 mmol) at room temperature After 15h stirrng at retlux temperature, water (150 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate (100 ml×2). The combined extract was washed with water, brine, dried (Na2SO4), and concentrated to give brown oil, which was purified by column chromatography (silica gel. 80 g, CH2Cl2/MeOH 50/1) to afford 118 g (71%) of brown oil

reactant | (R)-1-benzyl-3-pyrrolidinol tosylate | 24 mmol | C(C1=CC=CC=C1)N1C[C@@H](CC1)O.S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | fluoride | [F-]
reactant | THF | 370 mmol, 370 ml | C1CCOC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | (S)-1-Benzyl-3-fluoropyrrolidine | 118 g, 71% | C(C1=CC=CC=C1)N1C[C@H](CC1)F | C11H14FN
